US07582775B2
A. 5-Methoxy-benzo[b]thiophene-2-carboxylic acid ethyl ester
A solution of 2-fluoro-5-methoxy-benzaldehyde (4.35 g, 28.2 mmol) in DMF (30 mL) is added mercapto-acetic acid ethyl ester (3.71 mL, 33.9 mmol) and K2CO3 (7.86 g, 57.0 mmol). The resulting suspension is stirred at 80° C. for 60 min and quenched with water (300 mL). The mixture is extracted with EtOAc (2×200 mL), and the organic layer is dried over Na2SO4, concentrated, and purified by silica gel column chromatography (10% EtOAc/Hex), to give the title compound as an oil (4.40 g, 66%).

reactant | 2-fluoro-5-methoxy-benzaldehyde | 28.2 mmol, 4.35 g | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | mercapto-acetic acid ethyl ester | 33.9 mmol, 3.71 mL | C(C)OC(CS)=O | C4H8O2S
reactant | K2CO3 | 57.0 mmol, 7.86 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 5-Methoxy-benzo[b]thiophene-2-carboxylic acid ethyl ester | 4.40 g, 66% | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)OC | C12H12O3S
